US06544985B2
3-[2-Methyl-5-(tetrahydro-pyran-2-yloxymethyl)-thiazol-4-yl]-benzoic acid methyl ester was treated with lithium tert.-butyl acetate according to the general procedure K (method b) to give crude 3-oxo-3-[3-[2-methyl-5-(tetrahydro-pyran-2-yloxymethyl)-thiazol-4-yl]-phenyl]-propionic acid tert-butyl ester (5.45 g) as a pale-yellow oil.

reactant | 3-[2-Methyl-5-(tetrahydro-pyran-2-yloxymethyl)-thiazol-4-yl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=1N=C(SC1COC1OCCCC1)C)=O | C18H21NO4S
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-oxo-3-[3-[2-methyl-5-(tetrahydro-pyran-2-yloxymethyl)-thiazol-4-yl]-phenyl]-propionic acid tert-butyl ester | 5.45 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1N=C(SC1COC1OCCCC1)C)=O)=O | C23H29NO5S
